**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-FCLP
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT  FCLP    1  2  3  4  PARAMS: 
R_R9  N12325  3  {R2}
R_R8  N13265  N13287  {Rs4}
Kn_K6  L_L11  L_L12  
+  L_L13  L_L14  0.9999
R_R3  N12571  N12583  {Rs3}
R_R10  N13777  4  {R2}
C_C10  N13029  N12821  {ck}
R_R20  N13215  N13229  {dR4}
L_L11  N12821  N12295  {dL4}
R_R17  N12267  N12273  {dR3}
L_L8  N13265  N13287  {L4}
R_R7  N13287  N13305  {Rs3}
L_L9  N12295  N12307  {L5}
Kn_K4  L_L7  L_L8  1
R_R2  N12583  N12599  {Rs2}
Kn_K5  L_L9  L_L10  1
R_R16  N13229  N13249  {dR6}
Kn_K7  L_L15  L_L16  
+  L_L17  L_L18  0.9999
C_C5  N12273  N12289  {dC4}
L_L6  N13287  N13305  {L3}
L_L7  N12307  N12571  {L4}
R_R6  N13305  N13319  {Rs2}
R_R21  1  N12257  {Rdc}
Kn_K3  L_L5  L_L6  1
L_L16  N12257  N12799  {dL3}
C_C8  N13215  N13741  {dC3}
L_L18  N13023  N13215  {dL3}
R_R1  N12599  3  {Rs1}
R_R13  N12289  N12295  {dR5}
L_L4  N13305  N13319  {L2}
L_L5  N12571  N12583  {L3}
R_R15  N13755  N13249  {dR5}
R_R5  N13319  4  {Rs1}
R_R18  N12257  N12273  {dR4}
Kn_K2  L_L3  L_L4  1
R_R19  N13741  N13229  {dR3}
L_L15  N12799  N12273  {dL3}
L_L17  N13229  N13023  {dL3}
L_L3  N12583  N12599  {L2}
R_R11  N12295  N12307  {Rs5}
L_L2  N13319  4  {L1}
C_C4  N13249  N13265  {C2}
L_L10  N13249  N13265  {L5}
Kn_K1  L_L1  L_L2  1
R_R14  N12273  N12295  {dR6}
C_C6  N13229  N13755  {dC4}
L_L12  N12273  N12821  {dL4}
L_L14  N13029  N13229  {dL4}
L_L1  N12599  3  {L1}
C_C1  N12307  N12325  {C1}
R_R12  N13249  N13265  {Rs5}
C_C2  N13265  N13777  {C1}
R_R22  2  N13215  {Rdc}
C_C9  N13023  N12799  {ck}
R_R4  N12307  N12571  {Rs4}
C_C3  N12295  N12307  {C2}
L_L13  N13249  N13029  {dL4}
C_C7  N12257  N12267  {dC3} 
.ends  FCLP
****
.subckt FCLP_744869161063 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=4.0u
+  DL4=5.0u
+  DC3=1p 
+  DC4=1p 
+  DR3=20000
+  DR4=80000
+  DR5=130000
+  DR6=100000
+  Rdc=0.1421
+  ck=1.1pF
+  L1=3.5m
+  L2=3.5m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=4.8p
+  C2=4.8p
+  RS1=50000
+  RS2=60000
+  RS3=10000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161063
****
.subckt FCLP_744869161103 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=7.5u
+  DL4=7.5u
+  DC3=1p 
+  DC4=1p 
+  DR3=100000
+  DR4=100000
+  DR5=85000
+  DR6=120000
+  Rdc=0.2787
+  ck=2.5pF
+  L1=7m
+  L2=7m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=6.7p
+  C2=7p
+  RS1=10000
+  RS2=120000
+  RS3=10000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161103
****
.subckt FCLP_744869161104 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=60u
+  DL4=52u
+  DC3=1p 
+  DC4=1p 
+  DR3=500000
+  DR4=50000
+  DR5=400000
+  DR6=500000
+  Rdc=2.913
+  ck=4pF
+  L1=50m
+  L2=50m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=8.5p
+  C2=8p
+  RS1=2800000
+  RS2=2000000
+  RS3=10000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161104
****
.subckt FCLP_744869161153 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=8u
+  DL4=10u
+  DC3=10p 
+  DC4=10p 
+  DR3=240000
+  DR4=50000
+  DR5=140000
+  DR6=200000
+  Rdc=0.44
+  ck=2.8pF
+  L1=8.5m
+  L2=8.2m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=8.2p
+  C2=8p
+  RS1=160000
+  RS2=160000
+  RS3=10000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161153
****
.subckt FCLP_744869161273 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=16u
+  DL4=16u
+  DC3=10p 
+  DC4=10p 
+  DR3=450000
+  DR4=50000
+  DR5=400000
+  DR6=400000
+  Rdc=0.759
+  ck=1.8pF
+  L1=16m
+  L2=16m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=5p
+  C2=6p
+  RS1=280000
+  RS2=280000
+  RS3=10000
+  RS4=12000
+  RS5=12000
+  R2=1
.ends FCLP_744869161273
****
.subckt FCLP_744869161393 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=19u
+  DL4=19u
+  DC3=10p 
+  DC4=10p 
+  DR3=250000
+  DR4=30000
+  DR5=450000
+  DR6=550000
+  Rdc=1.048
+  ck=4.2pF
+  L1=22m
+  L2=20m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=8.5p
+  C2=7p
+  RS1=470000
+  RS2=560000
+  RS3=50000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161393
****
.subckt FCLP_744869161473 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=30u
+  DL4=30u
+  DC3=1p 
+  DC4=1p 
+  DR3=500000
+  DR4=20000
+  DR5=1500000
+  DR6=1500000
+  Rdc=1.227
+  ck=3.0p
+  L1=25m
+  L2=25m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=7.3p
+  C2=7p
+  RS1=740000
+  RS2=700000
+  RS3=50000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161473
****
.subckt FCLP_744869161683 1 2 3 4
X1  1  2  3  4  FCLP  PARAMS:
+  DL3=35u
+  DL4=35u
+  DC3=10p 
+  DC4=10p 
+  DR3=500000
+  DR4=50000
+  DR5=500000
+  DR6=500000
+  Rdc=1.83
+  ck=2.6p
+  L1=35m
+  L2=32m
+  L3=50n
+  L4=15n
+  L5=23n
+  C1=7p
+  C2=7p
+  RS1=3700000
+  RS2=6000000
+  RS3=50000
+  RS4=10000
+  RS5=10000
+  R2=1
.ends FCLP_744869161683
****